US05356882
Preparation of 3,5-di-O-benzyl-2-deoxy-L-threopentose dibenzyl dithioacetal
To a solution of 4-O-benzoyl-3,5-di-O-benzyl-2-deoxy-L-threo-pentose dibenzyl dithioacetal (88.8 g, 137 mmol) in dichloromethane (500 ml) was added a solution of sodium methoxide (11.1 g, 206 mmol) in methanol (205 ml) dropwise, with stirring, at 0° C. The reaction mixture was then allowed to warm to room temperature over a period of 3 hours. At the end of this time TLC (hexane-ethyl acetate [4:1]) revealed complete conversion to a slower moving component (Rf 0.31). The mixture was then poured into a 5% solution of NaH2PO4 and extracted with dichloromethane. The dichloromethane extracts were then washed with a 5% solution of sodium hydrogen carbonate and water, dried (magnesium sulphate) and evaporated. The crude title product was applied to a silica gel column eluted with hexane-ethyl acetate (4:1). Combination of the appropriate fractions gave the title product as a clear colourless syrup.

reactant | 4-O-benzoyl-3,5-di-O-benzyl-2-deoxy-L-threo-pentose dibenzyl dithioacetal | 137 mmol, 88.8 g | C(C1=CC=CC=C1)SC(C[C@H](OCC1=CC=CC=C1)[C@@H](OC(C1=CC=CC=C1)=O)COCC1=CC=CC=C1)SCC1=CC=CC=C1 | C40H40O4S2
reactant | sodium methoxide | 206 mmol, 11.1 g | C[O-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | methanol | 205 ml | CO | CH4O
product | 3,5-di-O-benzyl-2-deoxy-L-threopentose dibenzyl dithioacetal | C(C1=CC=CC=C1)SC(C[C@H](OCC1=CC=CC=C1)[C@@H](O)COCC1=CC=CC=C1)SCC1=CC=CC=C1 | C33H36O3S2
